### PR TITLE
[Merged by Bors] - feat: port Data.Pi.Interval

### PR DESCRIPTION
**Pull request by mo271**
This also fixes a mis-port of `card_piFinset` from #1742, which used `Fintype.card` instead of the correct `Finset.card`.

After this change the port is just a single name fix.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Pi/Interval.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+    simp_rw [mem_piFinset, mem_Icc, le_def, forall_and]
+
+variable (a b : ∀ i, α i)
+
+theorem Icc_eq : Icc a b = piFinset fun i => Icc (a i) (b i) :=
+  rfl
+#align pi.Icc_eq Pi.Icc_eq
+
+theorem card_Icc : (Icc a b).card = ∏ i, (Icc (a i) (b i)).card := by
+  -- Porting note: term mode proof `card_piFinset _` no longer works
```
Comment (eric-wieser) [inline Mathlib/Data/Pi/Interval.lean:46]: this is because `card_piFinset` was ported badly

**Review by Ruben-VandeVelde — APPROVED** [review]

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
